US07329656B2
tert-Butyl 4-{2-methyl-5-[(phenylmethoxy)carbonylamino]phenyl}piperidine carboxylate (7.50 g, 17.6 mmol) was dissolved in CH2Cl2 (120 mL) and a HCl solution (4M in dioxane, 52.0 mL) was added and stirred for 1 h. The mixture was concentrated in vacuo and redissolved in CH2Cl2. Aqueous Na2CO3 solution (1 M) was added and the biphasic mixture was stirred for 20 min and separated. The organic layer was further washed with water, dried over Na2SO4 and concentrated in vacuo to afford N-(4-methyl-3-(4-piperidyl)phenyl)(phenylmethoxy)carboxamide (5.61 g, 98% yield) as a white solid. ESMS m/e: 326.0 (M+H)+.

reactant | tert-Butyl 4-{2-methyl-5-[(phenylmethoxy)carbonylamino]phenyl}piperidine carboxylate | 17.6 mmol, 7.50 g | CC1=C(C=C(C=C1)NC(=O)OCC1=CC=CC=C1)C1CCN(CC1)C(=O)OC(C)(C)C | C25H32N2O4
reactant | HCl | 4M, 52.0 mL | Cl | ClH
solvent | CH2Cl2 | 120 mL | C(Cl)Cl | CH2Cl2
product | N-(4-methyl-3-(4-piperidyl)phenyl)(phenylmethoxy)carboxamide | 5.61 g, 98% yield | CC1=C(C=C(C=C1)NC(=O)OCC1=CC=CC=C1)C1CCNCC1 | C20H24N2O2
